US07265139B2
A solution of 2-methyl-5-(p-tolyl)-3-pentanol (74 g, 0.385 mol) in dichloromethane (100 mL) was mixed with polyphosphoric acid (570 g) and the reaction mixture was heated to 60° C. and stirred overnight. After cooling, ice/water was slowly added and the aqueous extracted with dichloromethane. The organic layer was successively washed with water, aq NaHCO4, water and brine, dried (Mg2SO4), filtered and evaporated to give 67 g of 1,1,7-trimethyl-1,2,3,4-tetrahydronaphthalene and used without further purification in the next step (step f). 1H NMR (300 MHz; CDCl3): 1.34 (s, 6 H), 1.69 (m, 2 H), 1.83 (m, 2 H), 2.37 (s, 3 H), 2.78 (m, 2 H), 6.99 (m, 2 H), 7.19 (s, 1 H).

reactant | 2-methyl-5-(p-tolyl)-3-pentanol | 0.385 mol, 74 g | CC(C)C(CCC1=CC=C(C=C1)C)O | C13H20O
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 1,1,7-trimethyl-1,2,3,4-tetrahydronaphthalene | 67 g | CC1(CCCC2=CC=C(C=C12)C)C | C13H18
